US04670437
Preparation of 1-(2-thienylethanone)[6-(1,1-dimethylethyl)-3-pyridazinyl]hydrazone
Other compounds prepared from 1-[6-(1,1-dimethylethyl)-3-pyridazinyl]hydrazine include; from 1.66 g of 3-methyl-2-acetythiophene, 1-(3-methyl-2-thienyl)ethanone[6-(1,1-dimethylethyl)-3-pyridazinyl]hydrazone, yield=1.27 g.

reactant | 1-[6-(1,1-dimethylethyl)-3-pyridazinyl]hydrazine | CC(C)(C)C1=CC=C(N=N1)NN | C8H14N4
reactant | 1-(3-methyl-2-thienyl)ethanone[6-(1,1-dimethylethyl)-3-pyridazinyl]hydrazone | CC(C)(C)C1=CC=C(N=N1)NN=C(C)C=1SC=CC1C | C15H20N4S
product | 1-(2-thienylethanone)[6-(1,1-dimethylethyl)-3-pyridazinyl]hydrazone | CC(C)(C)C1=CC=C(N=N1)NN=C(C)C=1SC=CC1 | C14H18N4S
